Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Influenza Virus Vaccines
 
Attending: ___
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old lady with history of CAD s/p recent STEMI s/p ___ 
2
to LAD ___, who presents for evaluation of chest
discomfort. 

Regarding her recent course, she was hospitalized from
___ for anterior STEMI, cors at that time with 30% 
___
LAD, 90% LAD after S1 and mild distal disease. First OM of
circumflex moderately small vessel with 80% stenosis @
bifurcation. No RCA disease. ___ 2 placed in LAD (3.0 x16
Premier with a lucency just proximal to the stent and this was
then stented with an overlapping 2.75x8 Premier). LVEDP measured
at the end of the procedure was 27 mm Hg. TTE with LVEF 27%,
akinesis of distal half of septum and distal anterior and
inferior walls with apical akinesis, moderate MR. ___ was then
bridged to warfarin given apical akinesis. Course was 
complicated
by atrial fibrillation with 10 hour run with HR 100-110s which 
on
metoprolol, and spontaneously converted back to sinus rhythm.
Anticoagulation as above. She was discharged on DAPT with 
aspirin
and Clopidogrel. 

She was most recently seen by outpatient cardiologist ___
at which time she appeared well, euvolemic, and was able to 
carry
out activities of daily living. At that time, losartan was
titrated up over several days to 100mg daily. She states she has
been "a little slowed down" from her normal activities but has
been quite functional. She has continued walking around her
___, meeting with friends for ___, and reading.
However, she has not been going to the Symphony, Theatre, or
exercising as much as usual (reports usually swimming an hour of
laps, playing tennis and other activity).

Today she was in her usual state of health when she developed
"discomfort" of her chest. She points to her left chest into her
mid chest into her left upper chest. She has difficulty
describing the actual feeling. She is unsure what time this
developed; her daughter first heard about it at around noon and
called ___ for her. It had resolved by the time she arrived at
the ED. No associated dyspnea, pleuritic nature of the pain,
lightheadedness, diaphoresis. She notes that prior to her MI she
also had vague symptoms, but the initial symptom then was 
"losing
her breath" and she reports nothing of that nature occurring
today. She took ASA 81 in AM and 243 in ambulance.
 
In the ED initial vitals were: 97.5 HR 64 BP 148/73 18 95% RA

EKG: Concerning for deepening TWI in Anterior leads
 
Labs/studies notable for:  
WBC 7.5 Hgb 12.7 Plt 224
140 | 103 | 31
---------------
4.0 | 23  | 1.1
Ca 9.0 Mg 1.9 P 4.0
INR 2.1
Trop T 0.01

CXR w/ alatectasis +/- L pleural effusion.

Cardiology was consulted. Bedside echo with good wall motion;
reportedly roughly 35-40% LVEF.
 
Vitals on transfer: 98.4, 59, 157/73, 96%RA, 15

On the floor, she reports that she feels well. Denies any 
further
discomfort or dyspnea. Denies any recent illness or changes in
medication outside of the above-noted uptitration of Losartan.
Denies any swelling in legs or difficulty breathing when lying
down.

 
Past Medical History:
- HTN  
- CKD  
- HLD 
- Asthma
- S/p L total hip arthroplasty
- Hx DVT
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death.  
 
Physical Exam:
ADMISSION EXAM:
===============
VS: T 97.7  BP 187/96  HR 67  RR 18  O2 SAT 98%RA
GENERAL: Well developed, well nourished in NAD. Oriented x3.
Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa.
No xanthelasma.  
NECK: Supple. JVP flat at 30 degrees.
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. Normal rate and regular rhythm. Normal S1, S2. II/VI
systolic murmur. No thrills or lifts.  
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric. 

DISCHARGE EXAM:
===============
VS: T 98.2 BP 138/79 HR 69 RR 18 O2 sat 94% RA 
GENERAL: Well developed, well nourished in NAD. Oriented x3.
Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa.
No xanthelasma.  
NECK: Supple. JVP flat at 30 degrees.
CARDIAC: Normal rate and regular rhythm. Normal S1, S2. II/VI
systolic murmur.
LUNGS: Respiration is unlabored with no accessory muscle use. No
crackles, wheezes or rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric. 
 
Pertinent Results:
ADMISSION LABS:
===============

___ 03:03PM BLOOD WBC-7.5 RBC-4.33 Hgb-12.7 Hct-39.0 MCV-90 
MCH-29.3 MCHC-32.6 RDW-13.8 RDWSD-45.1 Plt ___
___ 03:03PM BLOOD Neuts-75.0* Lymphs-10.8* Monos-8.6 
Eos-4.5 Baso-0.8 Im ___ AbsNeut-5.65 AbsLymp-0.81* 
AbsMono-0.65 AbsEos-0.34 AbsBaso-0.06
___ 03:03PM BLOOD ___ PTT-37.9* ___
___ 03:03PM BLOOD Plt ___
___ 03:03PM BLOOD Glucose-120* UreaN-31* Creat-1.1 Na-140 
K-4.0 Cl-103 HCO3-23 AnGap-14
___ 03:03PM BLOOD Calcium-9.0 Phos-4.0 Mg-1.9

OTHER LABS:
===========

___ 03:03PM BLOOD cTropnT-0.01
___ 06:58PM BLOOD CK-MB-4 cTropnT-<0.01
___ 07:00AM BLOOD CK-MB-3 cTropnT-<0.01
___ 05:00PM BLOOD PEP-PND FreeKap-24.2* ___ Fr 
K/L-0.98
___ 08:47AM URINE Hours-RANDOM TotProt-10
___ 08:47AM URINE U-PEP-PND

STUDIES:
========
___ TTE:
The left atrium is elongated. No atrial septal defect is seen by 
2D or color Doppler. The estimated right atrial pressure is ___ 
mmHg. There is mild symmetric left ventricular hypertrophy. 
There is mild (non-obstructive) focal hypertrophy of the basal 
septum. There is asymmetric left ventricular hypertrophy. The 
left ventricular cavity is unusually small. There is mild 
regional left ventricular systolic dysfunction with hypokinesis 
of the mid to distal septum, anterior segments, and true apex. 
Right ventricular chamber size is normal with borderline normal 
free wall function. The diameters of aorta at the sinus, 
ascending and arch levels are normal. The aortic valve leaflets 
are mildly thickened (?#). There is no aortic valve stenosis. No 
aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. Trivial mitral regurgitation is seen. There is 
borderline pulmonary artery systolic hypertension. There is a 
small pericardial effusion. The effusion appears 
circumferential, measuring up to 0.6 cm in greatest dimension 
inferolateral to the left ventricle. There are no 
echocardiographic signs of tamponade. 

IMPRESSION: Mildly depressed biventricular systolic function in 
the setting of regional wall motion abnormalities consistent 
with coronary artery disease (left anterior descending). 
Borderline pulmonary hypertension. Very small to small 
pericardial effusion. 

Compared with the prior study (images reviewed) of ___, 
the global left ventricular systolic function has improved 
(fewer wall motion abnormalities, no akinetic segments). The 
severity of mitral regurgitation has decreased. The pulmonary 
pressure is lower.

There is a granular appearance to the left ventricle in the 
setting of borderline systolic function, depressed E's, and 
biventricular and interatrial septal thickening. These findings 
raise the question of a possible infiltrative cardiomyopathy 
(e.g amyloid). Clinical correlation is suggested.

___ pharmacologic stress test and p-MIBI:

INTERPRETATION: This ___ year old woman with h/o HTN; s/p AMI and 
DES 
to LAD on ___ was referred to the lab after serial negative 
troponins for evaluation of chest pain. The patient was 
administered 
0.4 mg of Regadenoson IV bolus over 20 seconds. The patient 
presented 
with ___ isolated left sided chest discomfort, slightly sore 
with 
palpation. This discomfort resolved prior to stress infusion. No 
other 
chest, neck, back, or arm discomforts were reported by the 
patient 
throughout the study. In the presence of baseline diffuse T wave 

inversions, there was 0.5-1 mm of ST segment depression in the 
inferolateral leads, returning to baseline by minute 10 post 
infusion. 
The rhythm was sinus with one APB and periods of frequent 
VPBs/bigeminy, 
otherwise rare. Baseline systolic hypertension with a 
hypotensive 
response in association with marked lightheadedness and 
ventricular 
ectopy. Post-MIBI, the Regadenoson was reversed with 125 mg of 
Aminophylline IV. 

IMPRESSION: Atypical type symptoms prior to infusion. 
Uninterpretable 
ST segment changes as noted. Baseline systolic hypertension with 

hemodynamic response as noted. Nuclear report sent separately. 

p-MIBI:
=======
FINDINGS:  There is some soft tissue attenuation. 
Left ventricular cavity size is within normal limits. 
Rest and stress perfusion images reveal uniform tracer uptake 
throughout the 
left ventricular myocardium. 
  
Gated images reveal normal wall motion. 
The calculated left ventricular ejection fraction is 52%. 
  
IMPRESSION: 1. No evidence of myocardial perfusion defect. 2. 
Normal left 
ventricular cavity size with normal systolic function. 

 
Brief Hospital Course:
SUMMARY:
========
___ year old lady with history of CAD s/p recent STEMI s/p ___ 
2 to LAD ___, who presented for evaluation of chest 
discomfort. EKG concerning for deepening TWI, however, troponins 
were negative on admission, and she remained chest pain/pressure 
free. She had echo and a pMIBI evaluation which was negative for 
reversible ischemic disease.

# CORONARIES: LAD s/p DESx2, Circ OM1 moderately small with 80%
stenosis.
# PUMP: 27% on ___, by bedside echo in ED improved to 35-40%
# RHYTHM: SR.

TRANSITIONAL ISSUES:
====================
[] Initiated spironolactone on discharge at QOD dosing. Consider 
increasing dose to daily.
[] BMP after 1 week of hospitalization.
[] PPI for one month for atypical chest pain likely related to 
GERD.

ACTIVE ISSUES:  
===============
# Atypical Chest pain
# Coronary artery disease
Concerning EKG with dynamic changes. However, symptoms have 
resolved and on further discussion are different from her 
symptoms prior to MI. She had three negative troponins. Overall 
unclear etiology of chest pain, but resolved relatively quickly. 
Given the onset of pain following recent meal and quick 
resolution, may be related to gastrointestinal etiology rather 
than cardiac. She had a repeat TTE, which was stable and no 
further intervention was required. Her EKG was repeated several 
times and remained stable. She was continued on aspirin, Plavix, 
and atorvastatin.

# Heart failure with reduced ejection fraction
# Ischemic cardiomyopathy
Developed HFrEF after MI in ___. TTE at that time with LVEF 
27%. On bedside echo in ED estimated roughly 40%. Euvolemic on 
exam. TTE on this admission showed improvement compared to 
prior, however there was new concern for an infiltrative 
cardiomyopathy. Pharmacologist stress test and nuclear scan were 
reassuring with EF 52% and no reversible ischemia. She was 
continued on losartan and Metoprolol succinate. Spironolactone 
was added to her regimen. She is not on any diuretics.

# Paroxysmal Atrial Fibrillation
Sinus rhythm at this time. Given low likelihood of procedures 
and apical akinesis w/ pAF her warfarin was dosed according. For 
rate she was continued on Metoprolol as above.

# Hypertension: Losartan as above was continued.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 100 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Clopidogrel 75 mg PO DAILY 
4. Atorvastatin 80 mg PO QPM 
5. Metoprolol Succinate XL 25 mg PO DAILY 
6. Warfarin 2 mg PO DAILY16 
7. Fluticasone Propionate 110mcg 2 PUFF IH BID 
8. Restasis 0.05 % ophthalmic (eye) ___ BID 
9. Omeprazole 20 mg PO DAILY 
10. Systane (PF) (peg 400-propylene glycol (PF)) 0.4-0.3 % 
ophthalmic (eye) DAILY 
11. Acetaminophen 650 mg PO DAILY 
12. Calcium Carbonate 500 mg PO DAILY 
13. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  amLODIPine 2.5 mg PO DAILY 
RX *amlodipine 2.5 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
2.  Spironolactone 25 mg PO Q48H 
RX *spironolactone 25 mg 1 tablet(s) by mouth q48h Disp #*30 
Tablet Refills:*0 
3.  Acetaminophen 650 mg PO DAILY  
4.  Aspirin 81 mg PO DAILY  
5.  Atorvastatin 80 mg PO QPM  
6.  Calcium Carbonate 500 mg PO DAILY  
7.  Clopidogrel 75 mg PO DAILY  
8.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
9.  Losartan Potassium 100 mg PO DAILY  
10.  Metoprolol Succinate XL 25 mg PO DAILY  
11.  Multivitamins 1 TAB PO DAILY  
12.  Omeprazole 20 mg PO DAILY  
13.  Restasis 0.05 % ophthalmic (eye) ___ BID  
14.  Systane (PF) (peg 400-propylene glycol (PF)) 0.4-0.3 % 
ophthalmic (eye) DAILY  
15.  Warfarin 2 mg PO DAILY16  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: Atypical chest pain

SECONDARY DIAGNOSIS: Coronary artery disease, Chronic heart 
failure with reduced EF, ischemic cardiomyopathy, paroxysmal 
atrial fibrillation, hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,  

It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted to the hospital because you were having 
chest pain.

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
- You had EKGs performed to assess the heart's electrical 
activity and to assess for any damage to the heart muscle.
- You had an ultrasound of the heart to evaluate the heart 
muscle function.
- You had a "nuclear stress test" to evaluate for any new heart 
damage, which did not show any significant new damage to the 
heart.

WHAT SHOULD I DO WHEN I GO HOME?  
================================
- Take all of your medications as prescribed.
- Follow up with your primary care doctor as well as your 
cardiologist.
  
Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Your ___ Healthcare Team  

 
Followup Instructions:
___